US07931824B2
Synthesis of 1,1′-(1,8-octanediyl)bis-imidazole
Sodium hydride (11.0 g of 60 wt % dispersion in mineral oil, 276 mmol) was added to a 500-mL, 3-neck round bottom flask equipped with stir bar and reflux condenser under argon purge. Anhydrous tetrahydrofuran (300 mL) was vacuum-transferred into the reaction vessel. Imidazole (15.0 g, 221 mmol) was added to the stirred slurry. The reaction was heated to 40° C. and held there until H2 gas evolution had visibly ceased. After this time, 1,8-dibromooctane (20.4 mL, 111 mmol) was injected into the reaction mixture and the reaction heated at reflux (65° C.) under argon overnight. The reaction was allowed to cool to room temperature and the solids were filtered and washed with tetrahydrofuran. The product solution was concentrated by rotary evaporation and then dissolved in methanol (100 mL). Addition of methanol caused residual mineral oil to separate from the product. The methanol solution was washed with hexanes (3×100 mL), and concentrated by rotary evaporation. The product was dried under vacuum overnight to yield an off-white waxy solid. Yield: 21.5 g (85%).

reactant | Sodium hydride | 276 mmol, 11.0 g | [H-].[Na+]
reactant | Imidazole | 221 mmol, 15.0 g | N1C=NC=C1 | C3H4N2
reactant | 1,8-dibromooctane | 111 mmol, 20.4 mL | BrCCCCCCCCBr | C8H16Br2
product | 1,1′-(1,8-octanediyl)bis-imidazole | C(CCCCCCCN1C=NC=C1)N1C=NC=C1 | C14H22N4
